US05556886
A mixture of 8.75 parts of 2,6-dichlorobenzaldehyde, 5.4 parts of 1-(2-aminophenyl)-1-ethanone and 105 parts of acetic acid was stirred for 1/2 hour at room temperature. There were added 3.26 parts of potassium cyanide and stirring was continued for 20 hours. The reaction mixture was diluted with water. The precipitate was filtered off, washed with water and recrystallized from acetonitrile. The product was filtered off and dried, yielding 9.1 parts (71.3%) of (±)-α-[(2-acetylphenyl)amino]-2,6-dichlorobenzeneacetonitrile; mp. 178.7° C. (interm. 3).

reactant | 2,6-dichlorobenzaldehyde | ClC1=C(C=O)C(=CC=C1)Cl | C7H4Cl2O
reactant | 1-(2-aminophenyl)-1-ethanone | NC1=C(C=CC=C1)C(C)=O | C8H9NO
reactant | acetic acid | C(C)(=O)O | C2H4O2
reactant | potassium cyanide | [C-]#N.[K+]
solvent | water | O | H2O
product | (±)-α-[(2-acetylphenyl)amino]-2,6-dichlorobenzeneacetonitrile | 71.3% | C(C)(=O)C1=C(C=CC=C1)NC(C#N)C1=C(C=CC=C1Cl)Cl | C16H12Cl2N2O
